US05021426
A mixture of 1.70 g of 1-methyl-4-(3-cyano-5H-dibenzo[a,d]cycloheptene-5-ylidene)piperidine (prepared as described in U.S. Pat. No. 3,988,342 (1976)), 1.70 g of Raney nickel-aluminum alloy, and 25 ml of 75% aqueous formic acid was stirred under reflux for 1.5 hours. The cooled mixture was filtered and the filtrate was made basic by the additional of solid sodium bicarbonate. Extraction of the neutralized mixture with chloroform and evaporation of the solvent gave 1.30 g of 1-methyl-4-(3-formyl-5H-dibenzo[a,d]cycloheptene-5-ylidene)piperidine.

reactant | 1-methyl-4-(3-cyano-5H-dibenzo[a,d]cycloheptene-5-ylidene)piperidine | 1.70 g | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)C#N)C=CC=C2 | C22H20N2
reactant | formic acid | 25 ml | C(=O)O | CH2O2
catalyst | nickel-aluminum alloy | [Al].[Ni]
product | 1-methyl-4-(3-formyl-5H-dibenzo[a,d]cycloheptene-5-ylidene)piperidine | 1.30 g | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)C=O)C=CC=C2 | C22H21NO
